US05480884
A mixture of 1-methyl-2-isopropylamino-4,5-dicarboxyimidazole (910 mg; 4 mmol) and 20 ml of N,N-dimethylacetamide is heated at 180° C. under argon for three hours. The solvent is evaporated under reduced pressure; the residue, taken up with minimum ethanol, is precipitated with tetrahydrofuran. The mother liquors are concentrated until precipitation is obtained. The 1-methyl-2-isopropylamino-4-carboxyimidazole is obtained with a yield of 88%.

reactant | 1-methyl-2-isopropylamino-4,5-dicarboxyimidazole | 4 mmol, 910 mg | CN1C(=NC(=C1C(=O)O)C(=O)O)NC(C)C | C9H13N3O4
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | 1-methyl-2-isopropylamino-4-carboxyimidazole | yield of 88% | CN1C(=NC(=C1)C(=O)O)NC(C)C | C8H13N3O2
